US07456164B2
N-{[4-(4-(3-Pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]methyl}pyrimidin-2-amine
A mixture of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (100 mg, 0.314 mmol), 2-chloropyrimidine (50 mg, 0.346 mmol) and N,N-diisopropylethylamine (112 μl, 0.629 mmol) in N-methylpyrrolidinone (0.5 ml) was heated at 180° C. in the microwave (Smith Personal Synthesiser) for 600 seconds. The reaction mixture was partitioned between ethyl acetate (10 ml) and saturated NaHCO3 (10 ml). The organic washings were dried over Na2SO4 and concentrated in vacuo to give an oil. The compound was purified by column chromatography on silica gel, eluting with dichloromethane:methanol:ammonia, 100:0:0 to 88:12:1.2. Compound still impure so purified further on the Fraction Lynx automated LC system to give the title compound as a solid (22 mg, 17%) 1H NMR (400 MHz, CDCl3) δ 8.30 (brs, 2H), 7.34 (d, 2H), 6.92 (d, 2H), 6.70 (t, 1H), 4.10 (t, 2H), 3.78-3.84 (m, 2H), 3.62-3.72 (multiple peaks, 4H), 3.44-3.55 (m, 2H), 3.40 (m, 2H), 3.04-3.18 (m, 2H), 1.85-2.25 (multiple peaks, 10H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.314 mmol, 100 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | 2-chloropyrimidine | 0.346 mmol, 50 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N,N-diisopropylethylamine | 0.629 mmol, 112 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N-methylpyrrolidinone | 0.5 ml | CN1C(CCC1)=O | C5H9NO
product | N-{[4-(4-(3-Pyrrolidin-1-ylpropoxy)phenyl)tetrahydro-2H-pyran-4-yl]methyl}pyrimidin-2-amine | 22 mg, 17% | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CNC1=NC=CC=N1 | C23H32N4O2
